US07777042B2
{(S)-1-Benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-carbamic acid benzyl ester (0.075 g, 0.20 mmol) was dissolved in absolute ethanol (7 mL) and treated with 10% palladium on carbon (0.040 g). The resulting suspension was shaken under 60-65 psi H2 at room temperature for 16 h. The suspension was filtered and the filter cake washed with MeOH (−100 mL), and the combined filtrates concentrated in vacuo to give N-[(S)-2-Amino-3-phenyl-prop-(E)-ylidene]-N′-methyl-benzene-1,2-diamine, as a light yellow oil (0.052 g, approximately quantitative yield): ES+ LC/MS m/e 238 (M+H), RT=3.12 min.

reactant | {(S)-1-Benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-carbamic acid benzyl ester | 0.20 mmol, 0.075 g | C(C1=CC=CC=C1)OC(N[C@H](/C=N/C1=C(C=CC=C1)NC)CC1=CC=CC=C1)=O | C24H25N3O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.040 g | [Pd] | Pd
product | N-[(S)-2-Amino-3-phenyl-prop-(E)-ylidene]-N′-methyl-benzene-1,2-diamine | N[C@H](\C=N\C=1C(=CC=CC1)NC)CC1=CC=CC=C1 | C16H19N3
